US06541638B2
To 200 mg (0.52 mmol) (2S,4R)-4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid in 10 ml toluene and 4 ml THF were added 226 μl (2.6 mmol, 5eq) oxalyl chloride and the solution was stirred at RT for 2 h, and was concentrated. The residue was dissolved in 8 ml THF, and the solution was added at 0° C. to a suspension of 180 mg (1.19 mmol, 2.2 eq) 4-methylamino benzoic acid and 360 mg (2.6 mmol, 5eq) K2CO3 in 8 ml THF. After 2.5 h the solution was acidified by 1M KHSO4 and extracted with EtOAc, the organic phase was washed with brine and dried over Na2SO4. Column chromatography yielded 91 mg (35%) (2S,4R)-4-[[4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-benzoic acid as white solid, MS: 513 (MH+).

reactant | (2S,4R)-4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid | 0.52 mmol, 200 mg | C(C)(=O)S[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)O | C17H17NO5S2
reactant | oxalyl chloride | 2.6 mmol, 226 μl, 5eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methylamino benzoic acid | 1.19 mmol, 180 mg, 2.2 eq | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | K2CO3 | 2.6 mmol, 360 mg, 5eq | C(=O)([O-])[O-].[K+].[K+]
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (2S,4R)-4-[[4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-benzoic acid | 91 mg, 35% | C(C)(=O)S[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)N(C1=CC=C(C(=O)O)C=C1)C | C25H24N2O6S2
